US07858646B2
Synthesis of 2-chloro-1-(4-iodo-benzyloxy)-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene
Add sodium hexamethyldisilazide (1M solution in tetrahydrofuran, 21.9 mL, 21.9 mmol) to a solution of 1-[3-chloro-2-hydroxy-4-(4-iodo-benzyloxy)-phenyl]-ethanone (4.00 g, 9.94 mmol) in tetrahydrofuran (100 mL) chilled to −78° C. After 1 hour, add trimethylsilyl chloride (3.24 g, 29.8 mmol). After 1 hour, warm reaction to room temperature and stir overnight. Pour reaction into saturated sodium bicarbonate and extract with ethyl acetate. Combine organic layers, dry with sodium sulfate, filter, and concentrate. Dry in vacuo overnight to yield the title product as a dark yellow oil (5.30 g, 98%): 1H NMR (CDCl3) δ 0.21 (s, 9H), 0.28 (s, 9H), 4.55 (s, 1H), 4.79 (s, 1H), 5.08 (s, 2H), 6.56 (d, 1H), 7.22 (m, 3H), 7.71 (d, 2H)

reactant | sodium hexamethyldisilazide | 21.9 mmol, 1M, 21.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 1-[3-chloro-2-hydroxy-4-(4-iodo-benzyloxy)-phenyl]-ethanone | 9.94 mmol, 4.00 g | ClC=1C(=C(C=CC1OCC1=CC=C(C=C1)I)C(C)=O)O | C15H12ClIO3
reactant | trimethylsilyl chloride | 29.8 mmol, 3.24 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-chloro-1-(4-iodo-benzyloxy)-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene | 5.30 g, 98% | ClC1=C(C=CC(=C1O[Si](C)(C)C)C(=C)O[Si](C)(C)C)OCC1=CC=C(C=C1)I | C21H28ClIO3Si2
